US08067445B2
Step 1: [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-5′-methyl-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6-methoxy-5′-methyl-biphenyl-3-yl)-acetic acid ethyl ester and benzyl isocyanate.

reactant | (2′-ethylaminomethyl-6-methoxy-5′-methyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=CC(=C1)C)CNCC)=O | C21H27NO3
reactant | benzyl isocyanate | C(C1=CC=CC=C1)N=C=O | C8H7NO
product | [2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-5′-methyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=CC(=C1)C)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C29H34N2O4
